US05849764
Step 11C 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid
To a suspension of 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid ethyl ester (65 mg in 4 mL methanol) at 0° C. was added 1.4 mL of a 1.25N sodium hydroxide solution and the mixture heated to 75° C. on an oil bath. After 2.5 hours the mixture was cooled to room temperature and the reaction quenched by the addition of saturated aqueous ammonium chloride. The mixture was extracted with the ethyl acetate, washed with saturated ammonium chloride solution and the organic portion dried over sodium sulfate. Concentration in vacuo provided the crude title compound (63 mg).

reactant | 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid ethyl ester | 4 mL, 65 mg | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)Cl)Cl)CCN(CCCCC=1C=NC=CC1)C(=O)OC(C)(C)C | C33H37Cl2N3O4
reactant | sodium hydroxide | 1.25N | [OH-].[Na+]
product | 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid | 63 mg | C(C)(C)(C)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC(=C1)Cl)Cl)CCCCC=1C=NC=CC1 | C31H33Cl2N3O4
